US04446151
(B) 1,1-Difluoro-2-phthalimido-4-methyl-4-pentene
A mixture of crude 1.1-difluoro-2-amino-4-methyl-4-pentene (20 g, evaluated 110 mmoles) prepared as in Step A above, N-carbethoxyphthalimide (24 g, 110 mmoles) in benzene (300 mL) is kept overnight at room temperature. The solution is concentrated under vacuum, the oily residue is dissolved in methylene chloride (400 mL) and treated with 8 g of triethylamine during one night at room temperature. The solution is extracted with water, twice with 1 N hydrochloric acid and twice with water again. Evaporation of the organic layer affords an oily residue which is crystallized from petroleum ether at -5° C. (19.2 g, yield based on methallyl chloride: 45%).

reactant | 1.1-difluoro-2-amino-4-methyl-4-pentene | 110 mmoles, 20 g | FC(C(CC(=C)C)N)F | C6H11F2N
reactant | N-carbethoxyphthalimide | 110 mmoles, 24 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | benzene | 300 mL | C1=CC=CC=C1 | C6H6
product | 1,1-Difluoro-2-phthalimido-4-methyl-4-pentene | FC(C(CC(=C)C)N1C(C=2C(C1=O)=CC=CC2)=O)F | C14H13F2NO2
